US07414131B2
A. 7-Benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4(3H)-one
1-Benzyl-3-ethoxycarbonyl-4-piperidone hydrochloride (12.89 g, 43.3 mmol) was suspended in a sodium methoxide solution in methanol (25% wt/wt, 50 mL, 216.2 mmol) and formamidine acetate (5.4 g, 51.9 mmol) was added to the mixture. The reaction mixture was refluxed until all of the starting material was consumed (2 h). The methanol was removed under vacuum, and the resulting white solid was dissolved in a 3:1 mixture of chloroform: isopropanol. The mixture was washed with water and brine, dried over Na2SO4, filtered and evaporated to give the desired product as a white solid (9.4 g, 90%).

reactant | 1-Benzyl-3-ethoxycarbonyl-4-piperidone hydrochloride | 43.3 mmol, 12.89 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 216.2 mmol, 50 mL | CO | CH4O
reactant | formamidine acetate | 51.9 mmol, 5.4 g | C(C)(=O)O.C(=N)N
product | 7-Benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4(3H)-one | 9.4 g, 90% | C(C1=CC=CC=C1)N1CC=2N=CNC(C2CC1)=O | C14H15N3O
